US05137909
2-(5-hydroxy-1H-indol-2-yl)thio-2-phenylpropionic acid
To the 7-hydroxy-2-methyl-2-phenylthiazolo[3,2-a]indol-3(2H)-one (3.65 g), a 2N sodium hydroxide solution (70 ml) was added, and the mixture was heated and refluxed for 30 minutes. The reaction mixture was allowed to cool, and was washed with ethyl acetate. The water layer was acidified with 6N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, and a saturated aqueous sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (diluting solvent: chloroform/methanol=4:1), and recrystallized from acetonitrile to give 2.77 g (yield: 71%) of the desired product compound as a brown powder. The melting point was 179.5-181.5° C.

reactant | 7-hydroxy-2-methyl-2-phenylthiazolo[3,2-a]indol-3(2H)-one | 3.65 g | OC1=CC=2C=C3N(C2C=C1)C(C(S3)(C3=CC=CC=C3)C)=O | C17H13NO2S
reactant | sodium hydroxide | 2N, 70 ml | [OH-].[Na+]
product | 2-(5-hydroxy-1H-indol-2-yl)thio-2-phenylpropionic acid | 2.77 g, yield: 71% | OC=1C=C2C=C(NC2=CC1)SC(C(=O)O)(C)C1=CC=CC=C1 | C17H15NO3S
